US08003649B2
Sodium hydride (60% dispersion in oil, 16.97 mg, 0.42 mmol) was added to 1H-pyrazole (28.9 mg, 0.42 mmol) in DMF (2 mL) at 20° C. under nitrogen. The resulting suspension was stirred at 20° C. for 20 minutes. 6-[4-[4-(2-Bromoethoxy)phenyl]piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (100 mg, 0.21 mmol) was added and the reaction stirred at 20° C. for 1 hour. Water (25 mL) was then added and the resulting precipitate filtered off, washed with ether and dried overnight under vacuum at 50° C. to give 6-[4-[4-[2-(1H-pyrazol-1-yl)ethoxy]phenyl]piperazin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine (66.0 mg, 68%) as a pale yellow solid.

reactant | Sodium hydride | 0.42 mmol, 16.97 mg | [H-].[Na+]
reactant | 1H-pyrazole | 0.42 mmol, 28.9 mg | N1N=CC=C1 | C3H4N2
reactant | 6-[4-[4-(2-Bromoethoxy)phenyl]piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 0.21 mmol, 100 mg | BrCCOC1=CC=C(C=C1)N1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C18H18BrF3N6O
reactant | Water | 25 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-[4-[4-[2-(1H-pyrazol-1-yl)ethoxy]phenyl]piperazin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 66.0 mg, 68% | N1(N=CC=C1)CCOC1=CC=C(C=C1)N1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C21H21F3N8O
